US07094801B2
4-[3E-(3-Thiophen-2-yl-phenyl)-acryloyl]-benzoic acid
The title compound was prepared by condensing 3-(thiophen-2-yl)-benzaldehyde (Ex-42A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, mp 238° C. (dec), 71% yield. 1H-NMR (DMSO-D6) δ 13.40 (bs, 1H), 8.29 (d, J=8 Hz, 2H), 8.22 (s, 1H), 8.13 (d, J=8 Hz, 2H), 8.04 (s, 1H), 7.87 (s, 1H), 7.83 (d, J=8 Hz, 1H), 7.73 (d, J=9 Hz, 1H), 7.69 (d, J=4 Hz, 1H), 7.63 (d, J=5 Hz, 1H), 7.52 (t, J=8 Hz, 1H), 7,20 (dd, J=4, 5 Hz, 1H). HRMS m/z=calc. 335.0742, found 335.0749.

reactant | 3-(thiophen-2-yl)-benzaldehyde | S1C(=CC=C1)C=1C=C(C=O)C=CC1 | C11H8OS
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-[3E-(3-Thiophen-2-yl-phenyl)-acryloyl]-benzoic acid | 71% yield | S1C(=CC=C1)C=1C=C(C=CC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C20H14O3S
